US04876046
β-n-heptylglutaric acid (85 g, 0.36 mol) was added to an 800 ml beaker along with 98% methansulfonic acid (176 g, 1.84 mol) and the mixture was cooled to 10° C. 70% hydrogen peroxide was added slowly with constant stirring to maintain a reaction temperature of about 30° C. After the addition was complete, the solution was stirred at room temperature for 2 hours. Work-up as described for the alkyldiperoxyadipic acids provided β-n-heptyldiperoxyglutaric acid as an oil which solidified upon cooling to 0° C. but was found on rewarming to have a melting point of 19°-22° C. (yield 93 g; %AvO=10.7, theory=12.2; HPLC, C18ODS column, 67% methanol, retention time: 6.3 minutes, diperoxyacid, relative peak area 87%, 7.6 minutes, monoperoxyacid, relative peak area 13%.).

reactant | β-n-heptylglutaric acid | 0.36 mol, 85 g | C(CCCCCC)C(CC(=O)O)CC(=O)O | C12H22O4
reactant | methansulfonic acid | 1.84 mol, 176 g | CS(=O)(=O)O | CH4O3S
reactant | hydrogen peroxide | OO | H2O2
product | β-n-heptyldiperoxyglutaric acid | C(CCCCCC)C(CC(=O)OO)CC(=O)OO | C12H22O6
